US05545750
(2S,3S,4S,5S)-2,5-Di-(N-(Cbz-valinyl)amino)-3,4-dihydroxy-1,6-diphenylhexane
Cbz-valine p-nitrophenyl ester was coupled to (2S,3S,4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane using the procedure of Example 172B to provide the desired compound (Rf 0.42, 5% methanol in chloroform) as a white solid, m.p. 239°-242° C. in 86% yield.

reactant | Cbz-valine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C19H20N2O6
reactant | (2S,3S,4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane | N[C@@H](CC1=CC=CC=C1)[C@@H]([C@H]([C@H](CC1=CC=CC=C1)N)O)O | C18H24N2O2
product | (2S,3S,4S,5S)-2,5-Di-(N-(Cbz-valinyl)amino)-3,4-dihydroxy-1,6-diphenylhexane | 5% | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)[C@@H]([C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)O)O | C44H54N4O8
